US04069223
A mixture of 8.0 parts of 4-phenylisonipecotonitrile, 41.8 parts of 4-methyl-2-pentanone, 4.3 parts of ethylene oxide and 79.2 parts of ethanol is heated in a sealed citric bottle at about 60° C. for 7 days. The resulting solution is cooled, the solvent is evaporated under reduced pressure and the residual material is partitioned between diluted sodium hydroxide and ether. The ether layer is then separated and extracted with diluted HCl. The acid layer is then made alkaline with aqueous sodium hydroxide and the resulting mixture is extracted with ether. The ether layer is dried over sodium sulfate and potassium carbonate and evaporated in vacuum. The residue is crystallized from a mixture of ether and n-pentane to give 1-(2-hydroxyethyl)-4-phenylisonipecotonitrile.

reactant | 4-phenylisonipecotonitrile | C1(=CC=CC=C1)C1(CCNCC1)C#N | C12H14N2
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
reactant | ethylene oxide | C1CO1 | C2H4O
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-hydroxyethyl)-4-phenylisonipecotonitrile | OCCN1CCC(C#N)(CC1)C1=CC=CC=C1 | C14H18N2O
